US04294960
A solution of 2-(2-formamidothiazol-4-yl)-2-(tert-butoxycarbonylmethoxyimino)acetic acid (syn isomer, 3.2 g.), N,N-dimethylformamide (0.852 g.) and phosphoryl chloride (1.79 g.) in ethyl acetate (34 ml.) and a solution of 7-amino-3-cephem-4-carboxylic acid (1.95 g.) and bis(trimethylsilyl)acetamide (9.9 g.) in ethyl acetate (19.5 ml.) were treated in a similar manner to that of Example 15-(1) to give 7-[2-(2-formamidothiazol-4-yl)-2-(tert-butoxycarbonylmethoxyimino)acetamido]-3-cephem-4-carboxylic acid (syn isomer, 2.9 g.).

reactant | 2-(2-formamidothiazol-4-yl)-2-(tert-butoxycarbonylmethoxyimino)acetic acid | 3.2 g | C(=O)NC=1SC=C(N1)C(C(=O)O)=NOCC(=O)OC(C)(C)C | C12H15N3O6S
reactant | phosphoryl chloride | 1.79 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 7-amino-3-cephem-4-carboxylic acid | 1.95 g | NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O | C7H8N2O3S
reactant | bis(trimethylsilyl)acetamide | 9.9 g | C[Si](C)(C)C(C(=O)N)[Si](C)(C)C | C8H21NOSi2
solvent | ethyl acetate | 34 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 19.5 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 0.852 g | CN(C=O)C | C3H7NO
product | 7-[2-(2-formamidothiazol-4-yl)-2-(tert-butoxycarbonylmethoxyimino)acetamido]-3-cephem-4-carboxylic acid | 2.9 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)=NOCC(=O)OC(C)(C)C | C19H21N5O8S2
